### PR TITLE
feat(Analysis/Distribution): compactly supported functions are dense in Schwartz space

### PR DESCRIPTION
**Pull request by teorth**
This file adds `SchwartzMap.dense_hasCompactSupport`: the compactly supported
Schwartz functions are dense in `𝓢(E, F)` (for `E` a finite-dimensional real
normed space).

The proof goes through smooth truncation, and some API for such truncations is provided.

----

This material will be used in a forthcoming PR on the prime number theorem.

AI was used to generate initial code, which was then heavily golfed and reviewed by the author.

### CODE REVIEW

File: Mathlib/Analysis/Distribution/SchwartzSpace/CompactSupport.lean [hunk 1]
```diff
@@ -0,0 +1,186 @@
...
+
+/-- Each iterated derivative of the reference bump `χ₀` is bounded, uniformly over orders `≤ m`. -/
+lemma exists_bound_iteratedFDeriv_χ₀ (m : ℕ) :
+    ∃ A : ℝ, 0 ≤ A ∧ ∀ i ≤ m, ∀ y : E, ‖iteratedFDeriv ℝ i χ₀ y‖ ≤ A := by
+  have key (i) : ∃ A : ℝ, ∀ y : E, ‖iteratedFDeriv ℝ i χ₀ y‖ ≤ A :=
+    (bumpχ.contDiff.continuous_iteratedFDeriv (mod_cast le_top)).bounded_above_of_compact_support
+      (hasCompactSupport_χ₀.iteratedFDeriv i)
+  choose A hA using key
+  refine ⟨max 0 ((range (m + 1)).sup' ⟨0, by simp⟩ A), by grind, fun i _ y ↦ ?_⟩
+  exact (hA i y).trans (le_max_of_le_right (le_sup' A (by grind)))
```
Comment (mcdoll) [inline Mathlib/Analysis/Distribution/SchwartzSpace/CompactSupport.lean]: This holds for all smooth compactly supported functions (with the same proof):
```
lemma HasCompactSupport.exists_bound_iteratedFDeriv {f : E → F} (hf : HasCompactSupport f)
    (hf' : ContDiff ℝ ∞ f) (m : ℕ) :
    ∃ C : ℝ, 0 ≤ C ∧ ∀ i ≤ m, ∀ y, ‖iteratedFDeriv ℝ i f y‖ ≤ C := by
  have key (i) : ∃ C : ℝ, ∀ y, ‖iteratedFDeriv ℝ i f y‖ ≤ C :=
    (hf'.continuous_iteratedFDeriv (mod_cast le_top)).bounded_above_of_compact_support
      (hf.iteratedFDeriv _)
  choose A hA using key
  refine ⟨max 0 ((range (m + 1)).sup' ⟨0, by simp⟩ A), by grind, fun i _ y ↦ ?_⟩
  exact (hA i y).trans (le_max_of_le_right (le_sup' A (by grind)))
```

File: Mathlib/Analysis/Distribution/SchwartzSpace/CompactSupport.lean [hunk 2]
```diff
@@ -0,0 +1,186 @@
...
+  filter_upwards [(isOpen_lt continuous_norm continuous_const).mem_nhds hx] with y hy
+  exact bumpR_eq_one hR hy.le
+
+/-- Each derivative of `bumpR R = χ₀ (R⁻¹ • ·)` gains a factor `R⁻ⁿ`. -/
+lemma norm_iteratedFDeriv_bumpR_le (hR : 0 < R) (n : ℕ) (x : E) :
+    ‖iteratedFDeriv ℝ n (bumpR R) x‖ ≤ R⁻¹ ^ n * ‖iteratedFDeriv ℝ n χ₀ (R⁻¹ • x)‖ := by
+  grw [(by aesop : bumpR R = χ₀ ∘ (R⁻¹ • ContinuousLinearMap.id ℝ E)),
+    iteratedFDeriv_comp_right _ (f := χ₀) bumpχ.contDiff x le_rfl,
+    ContinuousMultilinearMap.norm_compContinuousLinearMap_le, norm_smul, norm_id_le]
+  simp [mul_comm, abs_of_pos hR]
```
Comment (mcdoll) [inline Mathlib/Analysis/Distribution/SchwartzSpace/CompactSupport.lean]: Same as above:
```
lemma norm_iteratedFDeriv_const_smul_le {f : E → F} {n : WithTop ℕ∞} {i : ℕ} (hf : ContDiff ℝ n f)
    (hi : i ≤ n) (hR : 0 < R) (x : E) :
    ‖iteratedFDeriv ℝ i (fun x ↦ f (R • x)) x‖ ≤ R ^ i * ‖iteratedFDeriv ℝ i f (R • x)‖ := by
  grw [(by aesop : (fun x ↦ f (R • x)) = f ∘ (R • ContinuousLinearMap.id ℝ E)),
    iteratedFDeriv_comp_right _ hf x hi,
    ContinuousMultilinearMap.norm_compContinuousLinearMap_le, norm_smul, norm_id_le]
  simp [mul_comm, abs_of_pos hR]
```

File: Mathlib/Analysis/Distribution/SchwartzSpace/CompactSupport.lean [hunk 3]
```diff
@@ -0,0 +1,186 @@
...
+variable {R : ℝ} (f : 𝓢(E, F))
+
+/-- A fixed reference bump on `E`: equal to `1` on the closed unit ball, supported in `ball 0 2`. -/
+def bumpχ : ContDiffBump (0 : E) := ⟨1, 2, one_pos, one_lt_two⟩
+
+/-- The reference bump `bumpχ` as a plain function `E → ℝ`. -/
+def χ₀ : E → ℝ := bumpχ (E := E)
+
+/-- The reference bump rescaled by `R`: equal to `1` on `ball 0 R`, supported in `ball 0 (2R)`. -/
+def bumpR (R : ℝ) (x : E) : ℝ := χ₀ (R⁻¹ • x)
```
Comment (mcdoll) [inline Mathlib/Analysis/Distribution/SchwartzSpace/CompactSupport.lean]: I am wondering whether these can all be replaced by using
```
def bumpR {R : ℝ} (x : E) : ℝ := (someContDiffBumpBase E).toFun 2 (R⁻¹ • x) 
```
and taking `bumpR 1` instead of `χ₀` and `bumpχ`.

**Review by mcdoll — COMMENTED** [review]
Thank you! (and also thanks for upstreaming the Tauberian theorem).

The two marked lemmas should probably live in `Mathlib.Analysis.Calculus.ContDiff.Basic`.

**Comment by teorth** [comment]
> The two marked lemmas should probably live in `Mathlib.Analysis.Calculus.ContDiff.Basic`.

Thanks!  One of the lemmas is now migrated there as `HasCompactSupport.exists_bound_iteratedFDeriv`.  The other turned out to be mostly duplicated by the existing lemma `iteratedFDeriv_comp_const_smul` so the proof is now rewritten accordingly.  I've also refactored the proof around your proposed redefinition of `bumpR`.

**Comment by teorth** [comment]
-awaiting-author

File: Mathlib/Analysis/Distribution/SchwartzSpace/CompactSupport.lean [hunk 4]
```diff
@@ -0,0 +1,168 @@
...
+
+## Main statements
+
+* `SchwartzMap.dense_hasCompactSupport`: compactly supported Schwartz functions are
+  dense.
+* `SchwartzMap.tendsto_truncate`: a more explicit version — `truncate f R → f` as `R → ∞`.
+
+-/
+
+@[expose] public section
```
Comment (ocfnash) [inline Mathlib/Analysis/Distribution/SchwartzSpace/CompactSupport.lean]: These days we're supposed to be more thoughtful about which definitions to expose and use `@[expose]` on the relevant `def`s (looks like none in this case). Separately we can simultaneously mark the section as `noncomputable` (and so drop that line below) by simply writing:
```suggestion
public noncomputable section
```

**Review by ocfnash — COMMENTED** [review]
I have mild concerns about having to write the boilerplate for `bumpR`.

Is it possible that we should consider changing the definition of `ContDiffBumpBase` to consume two radii, e.g., as follows:
```lean
structure ContDiffBumpBase (E : Type*) [NormedAddCommGroup E] [NormedSpace ℝ E] where
  /-- The function underlying this family of bump functions -/
  toFun : ℝ → ℝ → E → ℝ
  mem_Icc : ∀ (r R : ℝ) (x : E), toFun r R x ∈ Icc (0 : ℝ) 1
  symmetric : ∀ (r R : ℝ) (x : E), toFun r R (-x) = toFun r R x
  smooth : ∀ r > 0, ContDiffOn ℝ ∞ (uncurry (toFun r)) (Ioi (r : ℝ) ×ˢ (univ : Set E))
  eq_one : ∀ r > 0, ∀ R, r < R → ∀ x : E, ‖x‖ ≤ r → toFun r R x = 1
  support : ∀ r > 0, ∀ R, r < R → Function.support (toFun r R) = Metric.ball (0 : E) R
```
Would this help here?

**Comment by teorth** [comment]
I didn't feel brave enough to change `ContDiffBumpBase`, but I added a lemma defining `bumpR` directly as a `ContDiffBump` and added a scaling lemma, delegating some of the more routine properties of `bumpR` to corresponding API of `ContDiffBump`.

**Comment by teorth** [comment]
-awaiting-author

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 5]
```diff
@@ -652,3 +652,17 @@ Warning: see remarks attached to `contDiff_prodAssoc`
...
 theorem contDiff_prodAssoc_symm {n : ℕ∞ω} : ContDiff 𝕜 n <| (Equiv.prodAssoc E F G).symm :=
   (LinearIsometryEquiv.prodAssoc 𝕜 E F G).symm.contDiff
+
+/-- The iterated derivatives up to order `m` of a smooth compactly supported function are
+uniformly bounded. -/
+lemma HasCompactSupport.exists_bound_iteratedFDeriv {E F : Type*} [NormedAddCommGroup E]
+    [NormedSpace ℝ E] [NormedAddCommGroup F] [NormedSpace ℝ F] {f : E → F}
+    (hf : HasCompactSupport f) (hf' : ContDiff ℝ ∞ f) (m : ℕ) :
+    ∃ C, 0 ≤ C ∧ ∀ i ≤ m, ∀ y, ‖_root_.iteratedFDeriv ℝ i f y‖ ≤ C := by
+  have key i : ∃ C, ∀ y, ‖_root_.iteratedFDeriv ℝ i f y‖ ≤ C :=
```
Comment (ocfnash) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean]: I think we should generalise the scalars for consistency with [HasCompactSupport.iteratedFDeriv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.html#HasCompactSupport.iteratedFDeriv). 
```suggestion
    [NormedSpace 𝕜 E] [NormedAddCommGroup F] [NormedSpace 𝕜 F] {f : E → F}
    (hf : HasCompactSupport f) (hf' : ContDiff 𝕜 ∞ f) (m : ℕ) :
    ∃ C, 0 ≤ C ∧ ∀ i ≤ m, ∀ y, ‖_root_.iteratedFDeriv 𝕜 i f y‖ ≤ C := by
  have key i : ∃ C, ∀ y, ‖_root_.iteratedFDeriv 𝕜 i f y‖ ≤ C :=
```
Obviously this buys us nothing over `ℂ` and I'm not really sure if it ever really be used over `ℚₚ` (though the lemma is at least not vacuous there) but the consistency point does sway me.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 6]
```diff
@@ -652,3 +652,17 @@ Warning: see remarks attached to `contDiff_prodAssoc`
 -/
 theorem contDiff_prodAssoc_symm {n : ℕ∞ω} : ContDiff 𝕜 n <| (Equiv.prodAssoc E F G).symm :=
   (LinearIsometryEquiv.prodAssoc 𝕜 E F G).symm.contDiff
+
+/-- The iterated derivatives up to order `m` of a smooth compactly supported function are
+uniformly bounded. -/
+lemma HasCompactSupport.exists_bound_iteratedFDeriv {E F : Type*} [NormedAddCommGroup E]
```
Comment (ocfnash) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:658]: splice-bot merge

**Comment by ocfnash** [comment]
> I didn't feel brave enough to change `ContDiffBumpBase`, but I added a lemma defining `bumpR` directly as a `ContDiffBump` and added a scaling lemma, delegating some of the more routine properties of `bumpR` to corresponding API of `ContDiffBump`.

Thanks, I'll try to find some time to see if I can explore the design space a little more later today.

**Comment by ocfnash** [comment]
I did not manage to find time to return to this today but I will try to do so tomorrow.
